US04027028
Using the procedure of Example I step B and starting from (8-thiachromanyloxyethyl) bromide and 4-(N-phenyl N-propionylamino) piperidine, N (8-thiachromanyloxyethyl) 4-(N'-phenyl N'-propionylamino) piperidine is obtained and isolated as its oxalate which melts at 182°-184°.

reactant | (8-thiachromanyloxyethyl) bromide | O1C(CCC=2C=CCSC12)OCCBr | C10H13BrO2S
reactant | 4-(N-phenyl N-propionylamino) piperidine | C1(=CC=CC=C1)N(C(CC)=O)C1CCNCC1 | C14H20N2O
product | (8-thiachromanyloxyethyl) 4-(N'-phenyl N'-propionylamino) piperidine | O1C(CCC=2C=CCSC12)OCCN1CCC(CC1)N(C(CC)=O)C1=CC=CC=C1 | C24H32N2O3S
